* source SCHEMAPROIECT
D_D1         N124575 N36961 D1N4148 
R_R5         0 N36388 R_R5 1k  
.model        R_R5 RES R=1 DEV=5%
X_U1         N00744 N00792 +VALIMENTARE -VALIMENTARE N01871 OPA3581J
D_D4         N124671 N124805 D1N4148 
R_R1         0 N00792 R_R1 10  
.model        R_R1 RES R=1 DEV=5%
D_D2         N124854 N124575 D1N4148 
V_V3         +VALIMENTARE 0 70Vdc
R_R6         N36388 N36961 R_R6 7.5k  
.model        R_R6 RES R=1 DEV=5%
R_R10         N124854 +VALIMENTARE R_R10 5.8k  
.model        R_R10 RES R=1 DEV=5%
R_R11         N124805 -VALIMENTARE R_R11 5.8k  
.model        R_R11 RES R=1 DEV=5%
X_U2         N122312 N114172 +VALIMENTARE -VALIMENTARE N114172 OPA3581J
V_V1         N00744 0 DC 0Vdc AC 25Vac 
D_D3         N36961 N124671 D1N4148 
C_C1         0 N122051  47nF  
R_R2         N00792 N01871 R_R2 2.4k  
.model        R_R2 RES R=1 DEV=5%
X_U3         N122051 N116425 +VALIMENTARE -VALIMENTARE N116425 OPA3581J
C_C2         N01871 N122312  470nF  
R_R3         N114172 N122051  330  
R_R9         N101905 0 R_R9 12  
.model        R_R9 RES R=1 DEV=5%
X_Q6         -VALIMENTARE N124805 N101905 BDW47
R_R4         0 N122312  860  
X_U4         N116425 N36388 +VALIMENTARE -VALIMENTARE N36961 OPA3581J
V_V2         -VALIMENTARE 0 -70Vdc
X_Q5         +VALIMENTARE N124854 N101905 BDW42
